US06930104B2
4-(6-Chloro-1,2,3,4-tetrahydroquinolin-1-yl)-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinoline
Starting with cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol (400 mg, 1.22 mmol) prepared in Reference Example 1 and 6-chloro-1,2,3,4-tetrahydroquinoline (614 mg, 3.66 mmol), the same procedure as shown in Example 1 was repeated to give the titled compound (216 mg, yield: 37%) as a colorless oil. (cis:trans=3.4:1)

reactant | cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 1.22 mmol, 400 mg | COC=1C=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)O)C)C=CC1OC | C19H21NO4
reactant | 6-chloro-1,2,3,4-tetrahydroquinoline | 3.66 mmol, 614 mg | ClC=1C=C2CCCNC2=CC1 | C9H10ClN
product | 4-(6-Chloro-1,2,3,4-tetrahydroquinolin-1-yl)-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinoline | 216 mg, yield: 37% | ClC=1C=C2CCCN(C2=CC1)C1CC(N(C2=CC=CC=C12)C(C1=CC(=C(C=C1)OC)OC)=O)C | C28H29ClN2O3
